*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/2.20e-02[uF]/50[V]
* Murata P/N :GXT155R71H223KE01
* Property : C = 2.20e-02[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GXT155R71H223KE01 Port1 Port2
C01 Port1 N01 2.24e-08
R01 Port1 N01 1.00e+09
L02 N01 N02 1.82e-10
R03 N02 N03 2.90e-02
C04 N03 N04 2.31e-06
R04 N03 N04 1.28e+03
C05 N04 N05 6.56e-06
R05 N04 N05 6.56e+01
C06 N05 N06 2.96e-06
R06 N05 N06 3.07e+01
C07 N06 N07 5.68e-06
R07 N06 N07 1.99e+00
C08 N07 N08 3.40e-06
R08 N07 N08 1.02e+00
C09 N08 N09 2.20e-06
R09 N08 N09 3.24e-01
C10 N09 N10 1.64e-06
R10 N09 N10 7.92e-02
C11 N10 N11 1.59e-06
R11 N10 N11 1.25e-02
L12 N11 N12 2.16e-11
R12 N11 N12 4.51e-01
L13 N12 N13 8.90e-11
R13 N12 N13 1.32e-01
C14 N13 N14 2.89e-07
L14 N13 N14 6.79e-12
R14 N13 N14 1.71e-02
C15 N14 N15 5.64e-08
L15 N14 N15 1.62e-11
R15 N14 N15 3.46e-02
C16 N15 Port2 7.66e-12
L16 N15 Port2 3.66e-11
R16 N15 Port2 9.11e+00
.ENDS GXT155R71H223KE01
